US07041685B2
3-(3-Bromo-thiophen-2-yl)-5-(4-chloro-phenyl)-[1,2,4]-oxadiazole
The title compound was prepared from 4-chloro-benzoyl chloride (60 μL, 0.47 mmol) and 3-bromo-thiophene-2-amidoxime (102 mg, 0.461 mmol) similar to Example 36c, and yielded 80 mg (51%) of white solid. 1H NMR (CDCl3): 8.15 (dd, J=9.09, 2.06 Hz, 2H), 7.54 (dd, J=8.51, 2.20 Hz, 2H), 7.50 (d, J=5.22 Hz, 1H), 7.18 (d, J=5.22 Hz, 1H).

reactant | 4-chloro-benzoyl chloride | 0.47 mmol, 60 μL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | 3-bromo-thiophene-2-amidoxime | 0.461 mmol, 102 mg | BrC1=C(SC=C1)C(N)=NO | C5H5BrN2OS
product | 3-(3-Bromo-thiophen-2-yl)-5-(4-chloro-phenyl)-[1,2,4]-oxadiazole | BrC1=C(SC=C1)C1=NOC(=N1)C1=CC=C(C=C1)Cl | C12H6BrClN2OS
